### PR TITLE
Add prove of injectivity to Data.Fin.combine

### PR DESCRIPTION
**Pull request by uzytkownik**

### CODE REVIEW

File: src/Data/Fin/Properties.agda [hunk 1]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+  ... | tri> _ _ x>w = contradiction (sym combine[x,y]≡combine[w,z]) (<⇒≢ (lemma₁ w z x y x>w))
+  lemma₃ : ∀ {n k} (x : Fin n) (y : Fin k) (w : Fin n) (z : Fin k) → combine x y ≡ combine w z → y ≡ z
+  lemma₃ x y w z combine[x,y]≡combine[w,z] = combine-injectiveʳ x y z (begin
+    combine x y ≡⟨ combine[x,y]≡combine[w,z] ⟩
+    combine w z ≡˘⟨ cong (λ h → combine h z) (lemma₂ x y w z combine[x,y]≡combine[w,z]) ⟩
+    combine x z ∎)
+    where open ≡-Reasoning
+
+combine-surjective : ∀ {n k} (x : Fin (n ℕ.* k)) → Σ[ y ∈ Fin n ] Σ[ z ∈ Fin k ] combine y z ≡ x
+combine-surjective {n} {k} x with remQuot {n} k x | P.inspect (remQuot {n} k) x
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:653]: Can we use the new `with ... <- ...` idiom instead of `inspect`? (see #1630 for an attempt to deprecate it.)

File: src/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+... | y , z | P.[ eq ] = y , z , (begin
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:654]: No need for brackets around the equational reasoning proof.

File: src/Data/Fin/Properties.agda [hunk 3]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+  k ℕ.* toℕ x ℕ.+ toℕ z ∎))
+  where open ≡-Reasoning
+
+combine-injective : ∀ {n k} (x : Fin n) (y : Fin k) (w : Fin n) (z : Fin k) → combine x y ≡ combine w z → x ≡ w × y ≡ z
+combine-injective x y w z combine[x,y]≡combine[w,z] = lemma₂ x y w z combine[x,y]≡combine[w,z] , lemma₃ x y w z combine[x,y]≡combine[w,z] where
+  lemma₁ : ∀ {n k} (x : Fin n) (y : Fin k) (w : Fin n) (z : Fin k) → x < w → combine x y < combine w z
+  lemma₁ {n} {k} x y w z x<w = toℕ-cancel-< (begin-strict
+    toℕ (combine x y)      ≡⟨ toℕ-combine x y ⟩
+    k ℕ.* toℕ x ℕ.+ toℕ y  <⟨ ℕₚ.+-monoʳ-< (k ℕ.* toℕ x) (toℕ<n y) ⟩
+    k ℕ.* toℕ x ℕ.+ k      ≡⟨ solve 2 (λ k x → k :* x :+ k := k :* (con 1 :+ x)) refl k (toℕ x) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:631]: Using the solver here is definitely overkill, as it's only a `+-comm` and then a `*-comm` right? The solver is quite a heavy dependency to use...

File: src/Data/Fin/Properties.agda [hunk 4]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+    k ℕ.* suc (toℕ x)      ≤⟨ ℕₚ.*-monoʳ-≤ k (toℕ-mono-< x<w) ⟩
+    k ℕ.* toℕ w            ≤⟨ ℕₚ.m≤m+n (k ℕ.* toℕ w) (toℕ z) ⟩
+    k ℕ.* toℕ w ℕ.+ toℕ z  ≡˘⟨ toℕ-combine w z ⟩
+    toℕ (combine w z)      ∎)
+    where
+      open ℕₚ.≤-Reasoning
+      open import Data.Nat.Solver
+      open +-*-Solver
+  lemma₂ : ∀ {n k} (x : Fin n) (y : Fin k) (w : Fin n) (z : Fin k) → combine x y ≡ combine w z → x ≡ w
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:640]: Can we have some empty lines between these lemmas?

File: src/Data/Fin/Properties.agda [hunk 5]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+combine-injectiveʳ : ∀ {n k} (x : Fin n) (y z : Fin k) → combine x y ≡ combine x z → y ≡ z
+combine-injectiveʳ {n} {k} x y z combine[x,z]≡combine[y,z] = toℕ-injective (ℕₚ.+-cancelˡ-≡ (k ℕ.* toℕ x) (begin
+  k ℕ.* toℕ x ℕ.+ toℕ y ≡˘⟨ toℕ-combine x y ⟩
+  toℕ (combine x y)     ≡⟨ cong toℕ combine[x,z]≡combine[y,z] ⟩
+  toℕ (combine x z)     ≡⟨ toℕ-combine x z ⟩
+  k ℕ.* toℕ x ℕ.+ toℕ z ∎))
+  where open ≡-Reasoning
+
+combine-injective : ∀ {n k} (x : Fin n) (y : Fin k) (w : Fin n) (z : Fin k) → combine x y ≡ combine w z → x ≡ w × y ≡ z
+combine-injective x y w z combine[x,y]≡combine[w,z] = lemma₂ x y w z combine[x,y]≡combine[w,z] , lemma₃ x y w z combine[x,y]≡combine[w,z] where
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:626]: The where should definitely go on a new line, I completely missed it all the way over there off my screen. Was trying to work out why the indentation increased :smile:

File: src/Data/Fin/Properties.agda [hunk 6]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+  k ℕ.+ toℕ (combine x y)        ≡⟨ cong (k ℕ.+_) (toℕ-combine x y) ⟩
+  k ℕ.+ (k ℕ.* toℕ x ℕ.+ toℕ y)  ≡⟨ solve 3 (λ k x y → k :+ (k :* x :+ y) := k :* (con 1 :+ x) :+ y) refl k (toℕ x) (toℕ y) ⟩
+  k ℕ.* toℕ (suc x) ℕ.+ toℕ y    ∎
+  where
+    open ≡-Reasoning
+    open import Data.Nat.Solver
+    open +-*-Solver
+
+combine-injectiveˡ : ∀ {n k} (x y : Fin n) (z : Fin k) → combine x z ≡ combine y z → x ≡ y
+combine-injectiveˡ {n} {k@(suc _)} x y z combine[x,z]≡combine[y,z] = toℕ-injective (ℕₚ.*-cancelˡ-≡ k (ℕₚ.+-cancelʳ-≡ (k ℕ.* toℕ x) (k ℕ.* toℕ y) (begin
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:610]: Can we put everything after the `=` on a new line?

File: src/Data/Fin/Properties.agda [hunk 7]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
   i                                        ∎
   where open ≡-Reasoning
 
+toℕ-combine : ∀ {n k} (x : Fin n) (y : Fin k) → toℕ (combine x y) ≡ k ℕ.* toℕ x ℕ.+ toℕ y
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:590]: In this proof and the ones below, we generally use `m` and `n` for naturals and `i`,`j`,`k` for `Fin` types rather than `n` `k` `x` and `y`.

File: src/Data/Fin/Properties.agda [hunk 8]
```diff
@@ -151,6 +152,22 @@ toℕ≤pred[n] (suc {n = suc n} i)  = s≤s (toℕ≤pred[n] i)
...
+toℕ-mono-≤ {i = 0F} {j} z≤n = z≤n
+toℕ-mono-≤ {i = suc i} {suc j} (s≤s i≤j) = s≤s (toℕ-mono-≤ i≤j)
+
+toℕ-cancel-≤ : ∀ {n} {i j : Fin n} → toℕ i ℕ.≤ toℕ j → i ≤ j
+toℕ-cancel-≤ {i = 0F} {j} z≤n = z≤n
+toℕ-cancel-≤ {i = suc i} {suc j} (s≤s i≤j) = s≤s (toℕ-cancel-≤ i≤j)
+
+toℕ-cancel-< : ∀ {n} {i j : Fin n} → toℕ i ℕ.< toℕ j → i < j
+toℕ-cancel-< {i = 0F} {suc j} (s≤s z≤n) = s≤s z≤n
+toℕ-cancel-< {i = suc i} {suc (suc j)} (s≤s (s≤s i<j)) = s≤s (toℕ-cancel-< (s≤s i<j))
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:169]: Amazed we don't have these! I could swear I use them all the time... Must be in my own library.

File: src/Data/Fin/Properties.agda [hunk 9]
```diff
@@ -570,6 +587,76 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+  where open ≡-Reasoning
+toℕ-combine {n = suc n} {k} (suc x) y = begin
+  toℕ (combine (suc x) y)        ≡⟨⟩
+  toℕ (k ↑ʳ combine x y)         ≡⟨ toℕ-↑ʳ k (combine x y) ⟩
+  k ℕ.+ toℕ (combine x y)        ≡⟨ cong (k ℕ.+_) (toℕ-combine x y) ⟩
+  k ℕ.+ (k ℕ.* toℕ x ℕ.+ toℕ y)  ≡⟨ solve 3 (λ k x y → k :+ (k :* x :+ y) := k :* (con 1 :+ x) :+ y) refl k (toℕ x) (toℕ y) ⟩
+  k ℕ.* toℕ (suc x) ℕ.+ toℕ y    ∎
+  where
+    open ≡-Reasoning
+    open import Data.Nat.Solver
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:606]: Imports should go at the top of the file.

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the great PR! I've added a few comments.

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (uzytkownik) [reply src/Data/Fin/Properties.agda:653]:
```agda
combine-surjective : ∀ {n k} (x : Fin (n ℕ.* k)) → Σ[ y ∈ Fin n ] Σ[ z ∈ Fin k ] combine y z ≡ x
combine-surjective {n} {k} x with remQuot {n} k x in eq
... | y , z = y , z , (begin
  combine y z                       ≡˘⟨ uncurry (cong₂ combine) (,-injective eq) ⟩
  uncurry combine (remQuot {n} k x) ≡⟨ combine-remQuot {n} k x ⟩
  x ∎)
  where open ≡-Reasoning
```

causes

```
Panic: uncaught pattern violation
```

What agda version I need to have?

File: src/Data/Fin/Properties.agda (hunk 2 above)
Comment (uzytkownik) [reply src/Data/Fin/Properties.agda:654]: It fails to parse otherwise.

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Fin/Properties.agda]: Eek, that's scary. Agda 2.6.2 should be fine. If you're on that and the issue is still occuring, then I would open an issue on the main Agda repo with a cut-down example, and then I guess you'll need to switch back to `inspect` :+1:

File: src/Data/Fin/Properties.agda [hunk 10]
```diff
@@ -570,6 +588,82 @@ combine-remQuot {suc n} k i with splitAt k i | P.inspect (splitAt k) i
...
+      m ℕ.* toℕ i ℕ.+ m      ≡⟨ ℕₚ.+-comm _ m ⟩
+      m ℕ.+ m ℕ.* toℕ i      ≡⟨ cong (m ℕ.+_) (ℕₚ.*-comm m _) ⟩
+      m ℕ.+ toℕ i ℕ.* m      ≡⟨ ℕₚ.*-comm (suc (toℕ i)) m ⟩
+      m ℕ.* suc (toℕ i)      ≤⟨ ℕₚ.*-monoʳ-≤ m (toℕ-mono-< i<k) ⟩
+      m ℕ.* toℕ k            ≤⟨ ℕₚ.m≤m+n (m ℕ.* toℕ k) (toℕ l) ⟩
+      m ℕ.* toℕ k ℕ.+ toℕ l  ≡˘⟨ toℕ-combine k l ⟩
+      toℕ (combine k l)      ∎)
+      where
+        open ℕₚ.≤-Reasoning
+        open import Data.Nat.Solver
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:643]: No need to import the solver anymore.

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (uzytkownik) [reply src/Data/Fin/Properties.agda]: I have 2.6.2.1. I will create an issue.

**Comment by MatthewDaggitt** [comment]
Thanks again for the PR!
